US07265148B2
A solution of ethyl 5-nitro-3-phenyl-1H-indole-2-carboxylate (1.0 g, 3.23 mmol) and benzyl bromide (0.60 g, 3.5 mmol) in THF (50 mL) was treated with Cs2CO3 (3.26 g, 10 mmol) and heated to a gentle reflux for 16 h. After cooling to room temperature the reaction was quenched by addition of water and then partitioned between water and EtOAc. The organic phase was dried over MgSO4, and concentrated to yield ethyl 1-benzyl-5-nitro-3-phenyl-1H-indole-2-carboxylate as a yellowish solid (1.20 g, 93%): 1H NMR (DMSO-d6) δ 0.93 (t, J=7.0 Hz, 3 H), 4.11 (q, J=7.0 Hz, 2 H), 5.91 (s, 2 H), 7.12 (d, J=8.3 Hz, 2 H), 7.30-7.32 (m, 3 H), 7.50-7.55 (m, 5 H), 7.92 (d, J=9.2 Hz, 1 H), 8.22 (dd, J=9.2, 2.0 Hz, 1 H), 8.34 (d, J=2.0 Hz, 1 H); MS (EI) m/z 400.1 (MH+); Anal. calcd for C24H20N2O4: C, 71.99; H, 5.03; N, 7.00. Found: C, 71.77; H, 5.14; N, 6.71.

reactant | ethyl 5-nitro-3-phenyl-1H-indole-2-carboxylate | 3.23 mmol, 1.0 g | [N+](=O)([O-])C=1C=C2C(=C(NC2=CC1)C(=O)OCC)C1=CC=CC=C1 | C17H14N2O4
reactant | benzyl bromide | 3.5 mmol, 0.60 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Cs2CO3 | 10 mmol, 3.26 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ethyl 1-benzyl-5-nitro-3-phenyl-1H-indole-2-carboxylate | 1.20 g, 93% | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)[N+](=O)[O-])C1=CC=CC=C1)C(=O)OCC | C24H20N2O4
